US06232310B1
c) N-(2-Cyanomethylsulfonyl-4,6-difluoro-phenyl)acetamide
N-(2-Cyanomethylsulfanyl-4,6-difluoro-phenyl)acetamide (0.25 g) was suspended in glacial acetic acid (2 ml). Hydrogen peroxide (35%, 1 ml) was added and the mixture was stirred at 100° C. for 1 h 45 min. Then the mixture was cooled to 0° C. and water (5 ml) was added. After stirring for ½ h a white precipitate was isolated by filtration, washed with water and dried to give the title compound as white needles. Yield 0.17 g (61%); 1H-NMR (DMSO-d6), δ (ppm): 9.81 (br s, 1H, NH), 8.08-7.90 (m, 1H, Ar—H), 7.80-7.65 (m, 1H, Ar—H), 5.23 (s, 2H, CH2), 2.10 (s, 3H, CH3).

reactant | N-(2-Cyanomethylsulfanyl-4,6-difluoro-phenyl)acetamide | 0.25 g | C(#N)CSC1=C(C(=CC(=C1)F)F)NC(C)=O | C10H8F2N2OS
reactant | Hydrogen peroxide | 1 ml | OO | H2O2
reactant | water | 5 ml | O | H2O
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | N-(2-Cyanomethylsulfonyl-4,6-difluoro-phenyl)acetamide | C(#N)CS(=O)(=O)C1=C(C(=CC(=C1)F)F)NC(C)=O | C10H8F2N2O3S
